US08633173B2
[8-(2-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine
[8-(2-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine was prepared from 8-(2-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (75.0 mg, 0.260 mmol) and 1-(4-bromo-phenyl)-4-methyl-piperazine (80.0 mg, 0.314 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (30.0 mg, 0.0549 mmol) as the ligand in a manner analogous to Step 2d. The title compound was isolated as a yellow foam (0.067 g, 56%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.47 (d, J=6.6 Hz, 1H), 8.24 (d, J=7.7 Hz, 1H), 7.74 (t, J=7.0 Hz, 1H), 7.67 (t, J=7.4 Hz, 1H), 7.47 (t, J=8.0 Hz, 2H), 7.41 (d, J=7.8 Hz, 2H), 6.99-6.91 (m, 3H), 6.57 (s, 1H), 3.17-3.12 (m, 4H), 2.97 (s, 3H), 2.61-2.56 (m, 4H), 2.36 (s, 3H). MS=463 (MH)+.

reactant | 8-(2-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.260 mmol, 75.0 mg | CS(=O)(=O)C1=C(C=CC=C1)C=1C=2N(C=CC1)N=C(N2)N | C13H12N4O2S
reactant | 1-(4-bromo-phenyl)-4-methyl-piperazine | 0.314 mmol, 80.0 mg | BrC1=CC=C(C=C1)N1CCN(CC1)C | C11H15BrN2
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0549 mmol, 30.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | [8-(2-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | CS(=O)(=O)C1=C(C=CC=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)N2CCN(CC2)C | C24H26N6O2S
